US04921526
Following the procedure of Example 5, the sodium salt of diethyl malonate (161.0 mmol) and 1-acetyl-2-methyl-1-cyclopentene (20.0 g, 161.0 mmol) are reacted together to give 7a-methyl-2,3,7,7a-tetrahydro-1H-indene-4,6(5H)-dione, which is then reacted with 4-chloro-2-nitrobenzoyl chloride (1 equiv.) to give 4-(4-chloro-2-nitrobenzoyloxy)-7a -methyl-2,3,7,7a-tetraydro-1H-inden-6-one and 6-(4-chloro-2-nitrobenzoyloxy)-7a-methyl-2,3,7,7a-tetrahydro-1H-inden-4-one.

reactant | sodium | [Na] | Na
reactant | diethyl malonate | 161.0 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-acetyl-2-methyl-1-cyclopentene | 161.0 mmol, 20.0 g | C(C)(=O)C1=C(CCC1)C | C8H12O
product | 7a-methyl-2,3,7,7a-tetrahydro-1H-indene-4,6(5H)-dione | CC12CC(CC(C2CCC1)=O)=O | C10H14O2
